US07579368B2
3-Ethoxy-4-iodo-benzoic acid (2.73 grams, 9.36 mmol) was suspended in methylene chloride (25 mL), and oxalyl chloride (5.15 mL, 2.0 M in methylene chloride, 10.3 mmol) was added by pipette. Three drops of dimethylformamide was added and this mixture was stirred overnight at room temperature. The volatiles from the now homogeneous reaction were removed under vacuum and the residue reconstituted in methylene chloride. One half of this was treated with piperidine (2.0 mL, 20 mmol). The mixture was stirred at room temperature for 2 h. The reaction was diluted with methylene chloride, washed with 1.0 M hydrochloric acid, water, saturated sodium bicarbonate solution and brine. The organic layers was dried (magnesium sulfate), filtered and concentrated to give (3-ethoxy-4-iodo-phenyl)-piperidin-1-yl-methanone (1.69 g, 100%).

reactant | 3-Ethoxy-4-iodo-benzoic acid | 9.36 mmol, 2.73 grams | C(C)OC=1C=C(C(=O)O)C=CC1I | C9H9IO3
reactant | oxalyl chloride | 10.3 mmol, 2.0 M, 5.15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | piperidine | 20 mmol, 2.0 mL | N1CCCCC1 | C5H11N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | Three drops | CN(C=O)C | C3H7NO
product | (3-ethoxy-4-iodo-phenyl)-piperidin-1-yl-methanone | 1.69 g, 100% | C(C)OC=1C=C(C=CC1I)C(=O)N1CCCCC1 | C14H18INO2
